US04434096
Proline (0.842 g, 7.31 mmoles), in its HCl salt form, is dissolved in DMF and stirred with Boc-D-Leu-OSU (2.4 g, 7.31 mmoles) and (C2H5)3N (1.02 ml, 7.31 mmoles), prepared in Step C above, at room temperature overnight. The reaction mixture is filtered and the filtrate is concentrated under vacuum to dryness. The residue is dissolved in ethyl acetate washed with 0.1 N HCl, and then washed twice with H2O. The organic layer is dried over anhydrous Na2SO4 and the solvent removed by evaporation. The crude product is purified by silica gel column, yielding 1.4 g of pure Boc-D-Leu-Pro-OH.

reactant | Proline | 7.31 mmoles, 0.842 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | Boc-D-Leu-OSU | 7.31 mmoles, 2.4 g | CC(C)C[C@H](C(=O)ON1C(=O)CCC1=O)NC(=O)OC(C)(C)C | C15H24N2O6
reactant | (C2H5)3N | 7.31 mmoles, 1.02 ml | N(CC)(CC)CC | C6H15N
solvent | HCl | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
product | Boc-D-Leu-Pro-OH | 1.4 g | N([C@H](CC(C)C)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C16H28N2O5
